US07964627B2
Preparation 2: 1-(3-Amino-4-methoxybenzenesulfonyl)-5-methoxy-3-methyl-1H-indole
1-(3′-Acetamido-4′-methoxybenzenesulfonyl)-5-methoxy-3-methyl-1H-indole (10 grams, 25.7 mmol) (obtained from preparation 1) was taken into a 250 mL of three necked round bottom flask containing ethanol (100 mL) and stirred the mass to obtain a clear solution. Aqueous hydrochloric acid (10 mL, 33%) was added to this clear solution and heated the mass at reflux temperature for a period of two hours. The progress of the reaction was monitored by thin layer chromatography. After completion of the reaction, the reaction mass was concentrated under vacuum and the residual mass was quenched into chilled water (100 mL). The pH was adjusted to 9.0 to 10.0 with dilute sodium hydroxide solution. The product was extracted with dichloro methane (2×100 mL). Organic phase was washed with brine solution, dried over anhydrous sodium sulphate and concentrated the mass under reduced pressure to obtain crude compound. The obtained technical product was purified by column chromatography using silica gel (100-200 mesh), the eluent system being ethyl acetate and n-hexane (2:8) to obtain 1.0 gram of the title product.

reactant | 1-(3′-Acetamido-4′-methoxybenzenesulfonyl)-5-methoxy-3-methyl-1H-indole | 25.7 mmol, 10 grams | C(C)(=O)NC=1C=C(C=CC1OC)S(=O)(=O)N1C=C(C2=CC(=CC=C12)OC)C | C19H20N2O5S
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(3-Amino-4-methoxybenzenesulfonyl)-5-methoxy-3-methyl-1H-indole | 1.0 gram | NC=1C=C(C=CC1OC)S(=O)(=O)N1C=C(C2=CC(=CC=C12)OC)C | C17H18N2O4S
